data/rdb19/train.csv
rxn,smiles,ea
163,[C:12]([C:13]([C:14]([C:15]([H:28])([H:29])[H:30])([c:16]1[c:17]([H:31])[c:18]([H:32])[c:19]([H:33])[c:20]([H:34])[c:21]1[H:35])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:7])[H:8].[H:6][C:16]1([C:14]([C:13]([C:12]([H:22])([H:23])[H:24])([H:25])[H:26])([C:15]([H:28])([H:29])[H:30])[H:27])[C:17]([H:31])[C:18]([H:32])=[C:19]([H:33])[C:20]([H:34])=[C:21]1[H:35],46.46918604866369
639,[C:18]([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:18]([H:19])([H:20])[H:21],15.640838310093386
2503,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:16])([H:17])[H:18])([C:8]([C:9]([H:21])([H:22])[H:23])([H:19])[H:20])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([H:25])([H:26])[H:27]>>[C:1]([C:2]([O:3][C:4]([O:5][C:24]([H:25])([H:26])[H:27])[C:6]([C:7]([H:16])([H:17])[H:18])([C:8]([C:9]([H:21])([H:22])[H:23])([H:19])[H:20])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12],36.16255968005862
2382,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:24])([H:25])[H:26])([c:12]1[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]([H:30])[c:17]1[H:31])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20]>>[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[H:5][C:15]1([H:29])[C:14]([H:28])[C:13]([H:27])=[C:12]([C:10]([C:9]([C:8]([H:18])([H:19])[H:20])([H:21])[H:22])([C:11]([H:24])([H:25])[H:26])[H:23])[C:17]([H:31])=[C:16]1[H:30],42.656544989091344
3963,[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([H:25])([H:26])[H:27]>>[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])[H:22])([H:13])[H:14])([H:10])([H:11])[H:12].[H:23][C:24]([H:25])([H:26])[H:27],19.58011005999288
1781,[C:15]([O:16][C:17](=[O:18])[C:19](=[C:20]([H:25])[H:26])[C:21]([H:27])([H:28])[H:29])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:15]([O:16][C:17](=[O:18])[C:19]=[C:20]([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[C:21]([H:27])([H:28])[H:29])([H:11])[H:12])([H:8])([H:9])[H:10],63.72218482539756
3107,[C:16]([C:17]([C:18]([H:19])[H:20])([N:21]([C:22](=[O:23])[H:29])[H:28])[H:27])([H:24])([H:25])[H:26].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([H:19])[H:20])[N:21]([C:22](=[O:23])[H:29])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([H:11])([H:12])[H:27])([H:8])([H:9])[H:10].[O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13],66.2023634367506
2151,[N:1]([C:2]([O:3])([C:4](=[C:5]([H:9])[H:10])[H:8])[C:13]([C:12]([C:11]([H:19])([H:20])[H:21])([H:22])[H:23])([H:14])[O:15][C:16](=[O:17])[C:18]([H:24])([H:25])[H:26])([H:6])[H:7]>>[C:11]([H:19])([H:20])[H:21].[N:1]([C:2]1([C:4](=[C:5]([H:9])[H:10])[H:8])[O:3][C:12]([H:22])([H:23])[C:13]1([H:14])[O:15][C:16](=[O:17])[C:18]([H:24])([H:25])[H:26])([H:6])[H:7],57.70614612230565
1647,[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:19]1([C:17]([C:16]([C:15]([H:25])([H:26])[H:27])([H:28])[H:29])([C:18]([H:31])([H:32])[H:33])[H:30])[C:20]([H:34])[C:21]([H:35])=[C:22]([H:36])[C:23]([H:37])=[C:24]1[H:38])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],24.307949811860453
2979,[C:16]([C:17]([C:18]([C:19]([H:29])([H:30])[H:31])[C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([C:19]([H:29])([H:30])[H:31])[C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34])[H:27])([H:24])([H:25])[H:26].[C:1]([H:8])([H:9])([H:10])[H:28].[C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12],81.5062229539617
4579,[C:17]([C:18]([C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])[H:6])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12]>>[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])([H:6])[C:19]([C:18]([C:17]([H:27])([H:28])[H:29])([H:30])[H:31])([C:20]([H:33])([H:34])[H:35])[H:32])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12].[c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40],74.3369620348094
